US04294763
(a) Preparation of Starting Material: 3,4-Methylenedioxystyrene
To a stirred suspension of (methyl)triphenylphosphonium bromide (17.1 g, 48 mmol) and potassium carbonate (6.63 g, 48 mmol) in THF (200 ml) were added piperonal (6.0 g, 40 mmol) and 18-crown-6 (120 mg, 0.46 mmol). The mixture was heated to reflux under nitrogen and refluxed for 36 hours. The reaction mixture was cooled to room temperature, filtered and the filtrate evaporated to dryness at 15° C. The resulting solid was stirred in 100 ml cold diethylether to dissolve the desired product, then filtered to remove inorganic salts, and the filtrate evaporated at 15° C. This process was repeated a second time. The product was filtered through 60 g basic alumina (pentane/ether, 24/l) and the solvent removed as before to give 5.36 g (89%) of the liquid styrene. NMR (CDCl3)δ6.89 (1H, singlet), 6.70-6.74 (2H, 2 overlapping singlets), 6.43-6.7 (1H, partially obscured doublet), 5.84 (2H, singlet), 5.50 (1H, doublet), 5.06 (1H, doublet).

reactant | potassium carbonate | 48 mmol, 6.63 g | C([O-])([O-])=O.[K+].[K+]
reactant | piperonal | 40 mmol, 6.0 g | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
catalyst | (methyl)triphenylphosphonium bromide | 48 mmol, 17.1 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 200 ml | C1CCOC1 | C4H8O
catalyst | 18-crown-6 | 0.46 mmol, 120 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
product | 3,4-Methylenedioxystyrene | 5.36 g, 89% | C1OC=2C=C(C=C)C=CC2O1 | C9H8O2
